data/oMe_Silver.jsonl
{"reaction_id": "NR-049_1-C_2-CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2_3-CCCC(C)C_4-C(F)(F)F","name": "Corey-Seebach Reaction","level": "easy","reactants_smiles": ["S(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)S(C)","O=C(CCCC(C)C)(C(F)(F)F)"],"products_smiles": ["S(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(O)(CCCC(C)C)(C(F)(F)F))S(C)"],"conditions": "1) n-BuLi 2) Benzaldehyde 3) H3O+ workup","mechnism_text_description": "The mechanism begins with the deprotonation of 2-ethyl-1,3-dithiane (CCC1SCCS1) at the C2 position by n-butyllithium (n-BuLi), forming a nucleophilic lithiated dithiane carbanion. This carbanion then undergoes nucleophilic addition to the electrophilic carbonyl carbon of benzaldehyde (O=Cc1ccccc1), generating a lithium alkoxide intermediate. Finally, protonation of this alkoxide by an acidic workup (e.g., H3O+) yields the final product, 2-ethyl-2-(hydroxy(phenyl)methyl)-1,3-dithiane.","mechanism_step_nums": 3,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)[C-](CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)S(C)","step_weight": 0,"rationale": "n-BuLi abstracts the acidic C2 proton, as the adjacent sulfurs stabilize the resulting carbanion through inductive withdrawal and resonance, making deprotonation thermodynamically favorable."},{"step": 2,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "S(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C([O-])(CCCC(C)C)(C(F)(F)F))S(C)","step_weight": 0,"rationale": "The carbanion attacks the aldehyde’s electrophilic carbonyl carbon, driven by strong nucleophilicity and polarization of the C=O bond, forming a tetrahedral alkoxide intermediate."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "S(C)C(CC(C)(C)OC1=CC=C(C=C1)C2=CC=C(OC(C)(C)C)C=C2)(C(O)(CCCC(C)C)(C(F)(F)F))S(C)","step_weight": 0,"rationale": "Acidic workup protonates the alkoxide oxygen, favored by the high basicity of the alkoxide and the availability of protons in the acidic medium."}],"description": "n-BuLi deprotonates the acidic C2 of the dithiane, generating a stabilized carbanion via sulfur’s inductive and resonance effects. This nucleophile attacks the electrophilic aldehyde carbon, forming an alkoxide, which is protonated during acidic workup to yield the hydroxylated dithiane product."}
{"reaction_id": "NR-229_1-c1ccc(OC)cc1_2-CC_3-C1CCC1_4-c1ccc2ccccc2c1_5-c1ccc(Br)cc1","level": "medium","name": "Prins Reaction","reactants_smiles": ["O=C(c1ccc(OC)cc1)(CC)","C(C1CCC1)=C(c1ccc2ccccc2c1)(c1ccc(Br)cc1)","O"],"products_smiles": ["C([OH])(c1ccc2ccccc2c1)(c1ccc(Br)cc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))"],"conditions": "acidic conditions","mechanism_step_nums": 4,"mechanism": [{"step": 1,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C(=[OH+])(c1ccc(OC)cc1)(CC)","step_weight": 0,"rationale": "Protonation of the carbonyl oxygen increases the electrophilicity of the carbonyl carbon via resonance and inductive effects, making it more susceptible to nucleophilic attack by the alkene."},{"step": 2,"type": "addition","subtype": "electrophilic_addition","intermediate_smiles": "[C+](c1ccc2ccccc2c1)(c1ccc(Br)cc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))","step_weight": 0,"rationale": "The electron-rich alkene attacks the activated carbonyl carbon, forming a carbocation stabilized by adjacent substituents and the oxygen atom through inductive and hyperconjugative effects."},{"step": 3,"type": "addition","subtype": "nucleophilic_addition","intermediate_smiles": "C([OH2+])(c1ccc2ccccc2c1)(c1ccc(Br)cc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))","step_weight": 0,"rationale": "Water, abundant under acidic conditions, acts as a nucleophile and attacks the carbocation center, favored by the high electrophilicity and lack of steric hindrance at that position."},{"step": 4,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "C([OH])(c1ccc2ccccc2c1)(c1ccc(Br)cc1)C(C1CCC1)(C(O)(c1ccc(OC)cc1)(CC))","step_weight": 0,"rationale": "Deprotonation of the oxonium intermediate restores neutrality, driven by the stability of the neutral alcohol and the presence of a suitable base in the medium."}],"description": "Under acidic conditions, the carbonyl is protonated to enhance electrophilicity, enabling the alkene to attack and form a carbocation. Water then adds to the carbocation, and final deprotonation yields the Prins reaction product with hydroxyl substitution."}
